US07462623B2
4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-7-(3-chloropropoxy)quinazoline
Using an analogous procedure to that described in Example 1, 4-chloro-7-(3-chloropropoxy)quinazoline was reacted with 4-amino-5-chloro-2,3-methylenedioxypyridine to give the title compound in 89% yield; NMR Spectrum: (DMSOd6 and CF3CO2D) 2.25 (m, 2H), 3.8 (t, 2H), 4.35 (t, 2H), 6.25 (s, 2H), 7.35 (s, 1H), 7.6 (d, 1H), 7.9 (s, 1H), 8.7 (d, 1H), 9.0 (s, 1H).

reactant | 4-chloro-7-(3-chloropropoxy)quinazoline | ClC1=NC=NC2=CC(=CC=C12)OCCCCl | C11H10Cl2N2O
reactant | 4-amino-5-chloro-2,3-methylenedioxypyridine | NC1=C2C(=NC=C1Cl)OCO2 | C6H5ClN2O2
product | 4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-7-(3-chloropropoxy)quinazoline | 89% yield | ClC=1C(=C2C(=NC1)OCO2)NC2=NC=NC1=CC(=CC=C21)OCCCCl | C17H14Cl2N4O3
